US08067447B2
1-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol (650 mg, 2.17 mmol) was dissolved in 50 mL dry DCM and Dess-Martin periodinane (1.0 g, 2.36 mmol) was added. The reaction mixture was stirred for 12 h. The reaction was poured into 1N NaOH and extracted with DCM×3. The organic layers were dried over MgSO4, filtered, and concentrated to give 600 mg (92% yield) of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-one. MS found: (M+H)+=297.

reactant | 1-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol | 2.17 mmol, 650 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(C)C)O | C18H19FN2O
reactant | Dess-Martin periodinane | 2.36 mmol, 1.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-one | 600 mg, 92% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(C)C)=O | C18H17FN2O
